US05496405
To 300 g of polyphosphoric acid (116% phosphoric acid) heated at 80°-95° C. was added 1.0 g (17.1 mmole) of sodium chloride followed by 50 g (0.12 mole) of 2,5-di(4-chloroanilino)terephthalic acid. The mixture was heated at 110°-115° C. for five hours. After the viscous solution was cooled to 90°-95° C., the acid strength was adjusted to 110.5% by the dropwise addition of 75% phosphoric acid. The resultant melt was stirred for 20 minutes and then slowly poured into a mixture of 324 g of methanol and 36 g of water (i.e., 90% aqueous methanol) at 35° C. The temperature of the resultant slurry was allowed to rise during the addition to about 64° C., with the temperature being controlled during addition by external cooling and adjustment of melt addition rate. The slurry was heated at reflux for one hour and diluted with 280 g of water. After the resultant slurry was stirred for 30 minutes, the solid component was collected by filtration and washed with water until acid-free. The press-cake was reslurried in water, the pH was adjusted to 8.5 using aqueous sodium hydroxide, and methanol was added. The resultant slurry was heated at about 120° C. in a closed system (e.g., a pressure reactor). After the slurry was cooled to ambient temperature, the solid component was collected by filtration and washed with water until neutral. The wet cake can be oven dried or used as is for specific applications. Here, the wet cake was dried in an oven at 60° C. to give about 43 g of 2,9-dichloroquinacridone as a brilliant magenta solid.

reactant | sodium chloride | 17.1 mmole, 1.0 g | [Cl-].[Na+]
reactant | 2,5-di(4-chloroanilino)terephthalic acid | 0.12 mole, 50 g | ClC1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)C(=O)O)NC2=CC=C(C=C2)Cl)C=C1 | C20H14Cl2N2O4
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | methanol | 324 g | CO | CH4O
solvent | water | 280 g | O | H2O
solvent | water | 36 g | O | H2O
product | 2,9-dichloroquinacridone | about 43 g | C1=CC2=C(C=C1Cl)C(=O)C3=CC4=C(C=C3N2)C(=O)C5=C(N4)C=CC(=C5)Cl | C20H10Cl2N2O2
